US09340527B2
1,1-Dimethoxy-N-(3-methoxybenzyl)propan-2-amine
(3-Methoxyphenyl) methanamine (100 g, 730 mmol, 1 equiv.) and 1,1-dimethoxypropan-2-one (172.2 g, 1.46 mol, 2 equiv.) were dissolved in acetic acid (1.8 L). Anhydrous sodium sulfate (207 g, 1.46 mol, 2 equiv.) was added. The mixture was stirred for 1.5 hour at room temperature. Sodium triacetoxyborohydride (463 g, 2.19 mmol, 3 equiv.) was added in portions over 40 minutes. The mixture was stirred for an additional 2 hours. Most of the acetic acid was removed under reduced pressure. The resulting black oil was dissolved in ethyl acetate (2 L) and saturated aqueous sodium bicarbonate (1 L) was added slowly followed by solid potassium carbonate to adjust the pH to 7. The organic layer was separated, dried over sodium sulfate and filtered. The filtrate was concentrated under reduce pressure to give a black oil which was purified by silica gel chromatography to give the title compound (120 g, ˜85% purity by LC/MS, 68% yield).

reactant | (3-Methoxyphenyl) methanamine | 730 mmol, 100 g, 1 equiv. | COC=1C=C(C=CC1)CN | C8H11NO
reactant | 1,1-dimethoxypropan-2-one | 1.46 mol, 172.2 g, 2 equiv. | COC(C(C)=O)OC | C5H10O3
reactant | sodium sulfate | 1.46 mol, 207 g, 2 equiv. | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | Sodium triacetoxyborohydride | 2.19 mmol, 463 g, 3 equiv. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 1.8 L | C(C)(=O)O | C2H4O2
product | 1,1-Dimethoxy-N-(3-methoxybenzyl)propan-2-amine | 120 g, 68% yield | COC(C(C)NCC1=CC(=CC=C1)OC)OC | C13H21NO3
